US07598240B2
3-Bromo-4-mercaptobenzonitrile (10 g) was dissolved in toluene (50 ml) and chloroform (80 ml), followed by adding thereto ethanol (3.0 ml), and the resulting mixture was cooled to −10° C. Hydrochloric acid gas was bubbled into the mixture through a bubbler for 10 minutes and the resulting mixture was stirred at the same temperature for 30 minutes. The reaction mixture was allowed to stand in a refrigerator for 60 hours and then the completion of the reaction was confirmed by HPLC(ODS-A212). Dry nitrogen was bubbled into the reaction solution through a bubbler for 20 minutes and the hydrochloric acid gas was distilled off. The precipitate was collected by filtration, washed with toluene/chloroform and then dried to obtain ethyl 3-bromo-4-mercaptobenzene-carboximidate (13.6 g) as a light-yellow solid.

reactant | 3-Bromo-4-mercaptobenzonitrile | 10 g | BrC=1C=C(C#N)C=CC1S | C7H4BrNS
reactant | ethanol | 3.0 ml | C(C)O | C2H6O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-bromo-4-mercaptobenzene-carboximidate | 13.6 g | BrC=1C=C(C=CC1S)C(OCC)=N | C9H10BrNOS
